US05585358
N-(2-n-Propylpentanoyl)glycine methyl ester.
The title compound was prepared from valproyl chloride (19.34 g, 119 mmole) and glycine methyl ester hydrochloride (15.0 g, 119 mmole), according to the procedure described in Ex. 4.22 g (102 mmole, 86%) of an off-white solid, mp 68° C., was thus obtained.

reactant | valproyl chloride | 119 mmole, 19.34 g | C(C(CCC)CCC)(=O)Cl | C8H15ClO
reactant | glycine methyl ester hydrochloride | 119 mmole, 15.0 g | Cl.COC(CN)=O
product | N-(2-n-Propylpentanoyl)glycine methyl ester | COC(CNC(C(CCC)CCC)=O)=O | C11H21NO3
